US06194574B1
C. 4-(N-Benzylethylamino)-2-methyl-10-(2,4,6-trimethylphenyl)-pyrimido[4,5-b]indolizine
A mixture of 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrimido-[4,5-b]indolizine (15 mg) and N-benzylethylamine (0.04 mL) in DMSO (0.4 mL) is heated to 110° C. for 2 hours. The mixture is allowed to cool, diluted with aqueous ammonium chloride, and extracted twice with 50% ethyl ether in hexane. The combined extracts are washed with saturated brine, dried (Na2SO4), filtered, and concentrated in vacuo. Chromatography (10% to 20% ethyl acetate in hexane) gives 22 mg of the title compound (compound 5, Table 1) as a yellow oil: 1H nmr (400 MHz, CDCl3) d 1.17 (t, 3 H), 2.00 (s, 6 H), 2.38 (s, 3 H), 2.70 (s, 3 H), 3.40 (q, 2 H), 4.72 (s, 2 H), 6.68 (t, 1 H) 7.00 (s, 2 H), 7.03 (d, 1 H), 7.13 (d, 1 H), 7.29 (d, 1 H), 7.35 (t, 2 H), 7.41 (d, 2 H), 8.61 (d, 1 H).

reactant | 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrimido-[4,5-b]indolizine | 15 mg | ClC1=NC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C20H18ClN3
reactant | N-benzylethylamine | 0.04 mL | C(C1=CC=CC=C1)CCN | C9H13N
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-(N-Benzylethylamino)-2-methyl-10-(2,4,6-trimethylphenyl)-pyrimido[4,5-b]indolizine | 22 mg | C(C1=CC=CC=C1)CCNC1=NC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C29H30N4
